US07163938B2
5-Fluoro-2-[2-(2-methoxyethoxy)-4-(4-methylhexahydro-1,4-diazepin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide.
Prepared from 5-fluoro-2-[4-fluoro-2-(2-methoxyethoxy)-benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide and 1-methyl-hexahydro-1,4-diazepine to afford 91 mg (72%).

reactant | 5-fluoro-2-[4-fluoro-2-(2-methoxyethoxy)-benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=C(C=C(C=C1)F)OCCOC)=O | C22H18ClF2N3O4
reactant | 1-methyl-hexahydro-1,4-diazepine | CN1CCNCCC1 | C6H14N2
product | 5-Fluoro-2-[2-(2-methoxyethoxy)-4-(4-methylhexahydro-1,4-diazepin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-benzamide | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=C(C=C(C=C1)N1CCN(CCC1)C)OCCOC)=O | C28H31ClFN5O4
